US04181723
A mixture of 92.2 g of 1-carbethoxy-3-methyl-4-piperidone and 53.5 g of pyrrolidine in 1.0 liter of benzene is heated to the boil at reflux for 2 hours and the resulting water is continuously removed azeotropically. The reaction mixture is concentrated and the crude 1,2,3,6-tetrahydro-3-methyl-4-pyrrolidinylpyridine-1-carboxylic acid ethyl ester, obtained as an oil, is used as such for the next reaction.

reactant | 1-carbethoxy-3-methyl-4-piperidone | 92.2 g | C(=O)(OCC)N1CC(C(CC1)=O)C | C9H15NO3
reactant | pyrrolidine | 53.5 g | N1CCCC1 | C4H9N
solvent | benzene | 1.0 liter | C1=CC=CC=C1 | C6H6
product | 1,2,3,6-tetrahydro-3-methyl-4-pyrrolidinylpyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(C(=CC1)N1CCCC1)C | C13H22N2O2
